US04916121
To a solution of 200 mg (1.0 mmol) of 1-[(2-hydroxyethoxy)-methyl]-5-methyluracil in 10 ml of anhydrous pyridine was added 606 mg (1.1 mmol) of stearic anhydride for about one hours, and the mixture was stirred overnight at room temperature. The reaction mixture was added 2N HCl to adjust pH 4.00, and the reaction product was extracted three times with 20 ml of chloroform. Chroroform was distilled away at room temperature under reduced pressure and the obtained crude product was purified by column chromatography on silica gel. The chloroform-ethanol (98:2 to 97:3) eluants were collected and concentrated to yield 1-[[2-(octadecanoyloxy)-ethoxy]-methyl]-5-methyluracil. The yield was 80%. The analytical data are as follows.

reactant | 1-[(2-hydroxyethoxy)-methyl]-5-methyluracil | 1.0 mmol, 200 mg | OCCOCN1C(=O)NC(=O)C(=C1)C | C8H12N2O4
reactant | stearic anhydride | 1.1 mmol, 606 mg | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
reactant | HCl | 2N | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[[2-(octadecanoyloxy)-ethoxy]-methyl]-5-methyluracil | yield was 80% | C(CCCCCCCCCCCCCCCCC)(=O)OCCOCN1C(=O)NC(=O)C(=C1)C | C26H46N2O5
